US08492372B2
N-{[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}ETHANAMINE
A mixture of 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine (0.40 g, 1.30 mmol), ethanamine (70% in water, 3.0 ml, 37.8 mmol) and ACN (3.0 ml) was heated in a microwave oven at 150° C. for 20 min. The volatiles were evaporated in vacuum. The residue was chromathographed twice on a silica column using EtOAc/MeOH (2:1) as eluent. Collection of the fractions containing pure product and evaporation of the solvent afforded the title compound (0.2 g, 57%). The amine was converted into hydrochloric acid salt and crystallized from EtOH/DEE (0.33 g). The salt was washed with several portions of DEE. M.p. 203° C. 1H-NMR (400 MHz, MeOH): δ 7.50 (1H, dd, J1 8, J2 1.6), δ 7.41 (1H, d, J 1.6), δ 7.31 (1H, d, J 8), δ 5.27 (1H, t, J 4.8), δ 5.04 (2H, dd, J1 49, J2 16), δ 3.11 (3H, s), δ 3.01 (2H, t, J 4.0), δ 2.77 (2H, q, J 6.8), δ 1.17 (3H, t, J 7.2).

reactant | 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine | 1.30 mmol, 0.40 g | BrCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C10H11BrO4S
reactant | ethanamine | 37.8 mmol, 3.0 ml | C(C)N | C2H7N
solvent | ACN | 3.0 ml | C(C)#N | C2H3N
product | N-{[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}ETHANAMINE | 0.2 g, 57% | CS(=O)(=O)C=1C=CC2=C(OC(OC2)CNCC)C1 | C12H17NO4S
